US09029370B2
a) Ethyl 1-(6-(trifluoromethyl)pyrazin-2-yl)-1H-pyrazole-4-carboxylate
Under N2, 2-iodo-6-(trifluoromethyl)pyrazine (CAS 141492-94-6) (0.137 g, 500 μmol, Eq: 1.00), ethyl 1H-pyrazole-4-carboxylate (CAS 37622-90-5) (70.1 mg, 500 μmol, Eq: 1.00) and potassium carbonate (138 mg, 1.00 mmol, Eq: 2) were combined in DMSO (2.4 ml). The orange solution was stirred at 120° C. over 1 hour. Control with TLC: the reaction was finished. At RT, the RM was partitioned between water and EtOAc; extracted; the organic layer was washed with water and brine; dried over MgSO4; filtered; concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 20 g, 5% to 25% EtOAc in heptane).

reactant | 2-iodo-6-(trifluoromethyl)pyrazine | 500 μmol, 0.137 g | IC1=NC(=CN=C1)C(F)(F)F | C5H2F3IN2
reactant | ethyl 1H-pyrazole-4-carboxylate | 500 μmol, 70.1 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | potassium carbonate | 1.00 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2.4 ml | CS(=O)C | C2H6OS
product | Ethyl 1-(6-(trifluoromethyl)pyrazin-2-yl)-1H-pyrazole-4-carboxylate | FC(C1=CN=CC(=N1)N1N=CC(=C1)C(=O)OCC)(F)F | C11H9F3N4O2
